US04639267
Succinic anhydride (22.06 gm) was added to a mixture of 2,6-dimethylanisole (30 g) and anhydrous aluminium trichloride (59 g) in 1,2-dichloroethane (200 ml) at 0° C. The mixture was stirred for 0.5 hr at 0° C. and at room temperature for 4 hr. The mixture was poured onto ice-concentrated hydrochloric acid. After stirring vigorously for 5 min, the mixture was extracted with ethyl acetate. The dried (MgSO4) organic fraction was evaporated to give 4-(3,5-dimethyl-4-methoxyphenyl)-4-oxobutyric acid as white crystals, mp 108° C.

reactant | Succinic anhydride | 22.06 gm | C1(CCC(=O)O1)=O | C4H4O3
reactant | 2,6-dimethylanisole | 30 g | CC1=C(C(=CC=C1)C)OC | C9H12O
reactant | aluminium trichloride | 59 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | 4-(3,5-dimethyl-4-methoxyphenyl)-4-oxobutyric acid | CC=1C=C(C=C(C1OC)C)C(CCC(=O)O)=O | C13H16O4
